US04420487
Preparation of 5-Chloro-2-(2-Methylbenzyl)-6-Sulfamyl-1H-Benzimidazole
To 50 ml of 6 N hydrochloric acid was added 11.8 g of 2-amino-4-chloro-5-sulfamylaniline and 10.4 g of 2-methylbenzyl cyanide. The reaction was refluxed for 22 hours and then concentrated in vacuo to a solid which was then added with stirring to 200 ml of 38% ammonium hydroxide. Filtration provided the free base as a semi-gum which was dissolved in 500 ml of methanol. The methanol solution was brought to a boil, charcoal added, and boiling continued for five minutes. Upon cooling, the suspension was filtered through Celite and the filtrate concentrated in vacuo to yield a solid, m.p. 226°-230°.

reactant | hydrochloric acid | 6 N, 50 ml | Cl | ClH
reactant | 2-amino-4-chloro-5-sulfamylaniline | 11.8 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | 2-methylbenzyl cyanide | 10.4 g | CC1=C(CC#N)C=CC=C1 | C9H9N
reactant | charcoal | C | CH4
solvent | methanol | 500 ml | CO | CH4O
product | 5-Chloro-2-(2-Methylbenzyl)-6-Sulfamyl-1H-Benzimidazole | ClC1=CC2=C(NC(=N2)CC2=C(C=CC=C2)C)C=C1S(N)(=O)=O | C15H14ClN3O2S
